US07592477B2
Step a) Formation of ethyl{[4-({[(2-butyl-1-benzofuran-3-yl)methyl]amino}carbonyl)-benzyl][4-(trifluoromethyl)benzyl]amino}(oxo)acetate
The same procedure as employed in the preparation of Example 1 (step d) but using 4-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid and [(2-butyl-1-benzofuran-3-yl)methyl]amine hydrochloride, HOBT and TEA in DCM gave the title compound as a white solid (33%). 1H NMR (CDCl3, 300 MHz) δ 7.66 (m, 2H), 7.51 (m, 3H), 7.35-7.18 (m, 7H), 6.05 (br s, 1H), 4.64 (s, 2H), 4.44 (s, 2H), 4.29 (m, 4H), 2.78 (m, 2H), 1.66 (m, 2H), 1.46 (m, 2H), 1.24 (m, 3H), 0.88 (m, 3H). M−(LC/MS(ESI)): 593; M+(LC/MS(ESI)): 595. HPLC (Condition A), Rt: 6.38 min (HPLC purity: 99.6%).

reactant | 4-({[ethoxy(oxo)acetyl][4-(trifluoromethyl)benzyl]amino}methyl)benzoic acid | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C(=O)O)C=C1)=O | C20H18F3NO5
reactant | [(2-butyl-1-benzofuran-3-yl)methyl]amine hydrochloride | Cl.C(CCC)C=1OC2=C(C1CN)C=CC=C2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | ethyl{[4-({[(2-butyl-1-benzofuran-3-yl)methyl]amino}carbonyl)-benzyl][4-(trifluoromethyl)benzyl]amino}(oxo)acetate | 33% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C(=O)NCC1=C(OC2=C1C=CC=C2)CCCC)=O | C33H33F3N2O5
